US04959366
(C) 4-{2-[N-Methyl-N-(4-methanesulphonamidophenethyl)amino]ethoxy}benzamide
A solution of 4-{2-[N-(4-aminophenethyl)-N-methylamino]ethoxy}benzamide (1.0 g) and methanesulphonic anhydride in dry methylene chloride (50 ml) was stirred at room temperature for 16 hours. After evaporation a 2N aqueous sodium bicarbonate solution was added to the residue followed by extraction three times with methylene chloride. The combined organic layers were dried over magnesium sulphate, filtered and evaporated to give a light brown solid. Crystallisation from toluene/ethyl acetate gave the title compound (0.31 g), m.p. 147°.

reactant | 4-{2-[N-(4-aminophenethyl)-N-methylamino]ethoxy}benzamide | 1.0 g | NC1=CC=C(CCN(C)CCOC2=CC=C(C(=O)N)C=C2)C=C1 | C18H23N3O2
reactant | methanesulphonic anhydride | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 4-{2-[N-Methyl-N-(4-methanesulphonamidophenethyl)amino]ethoxy}benzamide | 0.31 g | CN(CCC1=CC=C(C=C1)NS(=O)(=O)C)CCOC1=CC=C(C(=O)N)C=C1 | C19H25N3O4S
